US05300477
To a suspension of 13.37 g (56 mmol) of 2,6-diphenyl-4(3H)-pyrimidinone and 200 mL glacial acetic acid was added 15.1 g (84.8 mmol) of N-bromosuccinimide and the mixture was left to stir at room temperature for 60 h. The reaction was poured onto 100 g crushed ice and vacuum filtered, washing well with water, then air dried to yield 8.85 g (48%) 5-bromo-2,6-diphenyl-4(3H)-pyrimidinone, as a white solid. 1H-NMR (d6DMSO) δ7.55 (6H, m); 7.75 (2H, m); 8.15 (2H, m).

reactant | 2,6-diphenyl-4(3H)-pyrimidinone | 56 mmol, 13.37 g | C1(=CC=CC=C1)C1=NC(=CC(N1)=O)C1=CC=CC=C1 | C16H12N2O
reactant | N-bromosuccinimide | 84.8 mmol, 15.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-2,6-diphenyl-4(3H)-pyrimidinone | 8.85 g, 48% | BrC=1C(NC(=NC1C1=CC=CC=C1)C1=CC=CC=C1)=O | C16H11BrN2O
